US03940386
A flask containing a solution of 21.6 g (0.1 mole) of 1-(cyclopropyl phenyl)-methyl piperazine (boiling point: 147°-148°C), at a pressure of 1.8 to 2 mm of Hg in 100 ml of dry benzene was cooled to 5°C. 11 g of anhydrous Na2CO3 were added, and a solution of 16.6 g (0.1 mole) of cinnamoyl chloride in 50 ml of dry benzene was introduced dropwise, with stirring; this addition was effected at a rate such that the temperature of the mixture did not rise above 10°C. It was then left to return to the ambient temperature, it was stirred for another 12 hours, and the mixture was brought to a temperature between 40° and 50°C for 4 hours. It was then cooled, the mineral salts were filtered and the mother liquors were acidified with hydrochloric acid dissolved in isopropanol. 24.5 g of crude 1-(cyclopropyl phenyl)-methyl-4-cinnamoyl piperazine hydrochloride were thus obtained, having a melting point of 220°-222°C, and which can be recrystallized if desired.

reactant | 1-(cyclopropyl phenyl)-methyl piperazine | 0.1 mole, 21.6 g | C1(CC1)C1=C(C=CC=C1)N1C(CNCC1)C | C14H20N2
reactant | Na2CO3 | 11 g | C(=O)([O-])[O-].[Na+].[Na+]
reactant | cinnamoyl chloride | 0.1 mole, 16.6 g | C(C=CC1=CC=CC=C1)(=O)Cl | C9H7ClO
solvent | benzene | 100 ml | C1=CC=CC=C1 | C6H6
solvent | benzene | 50 ml | C1=CC=CC=C1 | C6H6
product | 1-(cyclopropyl phenyl)-methyl-4-cinnamoyl piperazine hydrochloride | 24.5 g, yield was 90.1% | Cl.C1(CC1)C1=C(C=CC=C1)N1C(CN(CC1)C(C=CC1=CC=CC=C1)=O)C | InChI=1S/C23H26N2O.ClH/c1-18-17-24(23(26)14-11-19-7-3-2-4-8-19)15-16-25(18)22-10-6-5-9-21(22)20-12-13-20;/h2-11,14,18,20H,12-13,15-17H2,1H3;1H
